US07642277B2
a) 1,2-Dihydro-1-(1-naphthalenyl)-5H-tetrazole-5-thione
To a solution of NaN3 (1.76 g, 27.0 mmol) in a mixture of 1,4-dioxane (25 mL) and water (25 mL) was added 1-naphthalenylisothiocyanate (5.00 g, 27.0 mmol) at room temperature. The yellow solution containing a white solid was heated at 102° C. for 2 h. The reaction mixture was then cooled to room temperature and aqueous 1 N HCl solution was added until pH 2 was reached. The aqueous mixture was extracted with EtOAc (250 mL). The organic layer was extracted with aqueous 1 N NaOH solution. The aqueous layer was acidified with aqueous 6 N HCl solution and a white precipitate formed. The suspension was filtered and the resulting solid was triturated with Et2O/hexane (1/1) to give the title compound (3.89 g, 63% yield) as an off white solid.

reactant | NaN3 | 27.0 mmol, 1.76 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-naphthalenylisothiocyanate | 27.0 mmol, 5.00 g | C1(=CC=CC2=CC=CC=C12)N=C=S | C11H7NS
reactant | HCl | 1 N | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | 1,2-Dihydro-1-(1-naphthalenyl)-5H-tetrazole-5-thione | 3.89 g, 63% yield | C1(=CC=CC2=CC=CC=C12)N1NN=NC1=S | C11H8N4S
